US07678787B2
Step A. 2′-(Methylthio)-1,1′-biphenyl-4-carboxylic acid
A stirred mixture containing 4.15 g (0.025 mole) of 2-bromothioanisole, 5.08 g. (0.0025 mole) of 4-carboxybenzeneboronic acid, 10.36 g (0.075 mol) of potassium carbonate and 0.45 g (0.00063 mol) of dichlorobis(triphenylphosphine)palladium(II) in 40 mL of water and 20 mL of 1,4-dioxane was heated under reflux for two hours under nitrogen. The reacton mixture was allowed to cool to room temperature and filtered. The dioxane was removed in vacuo, the residue was diluted with 100 mL of water and then acidified with 20% hydrochloric acid. The crude product (6.1 g) was recrystallized from ethanol to yield the title compound, m.p. 220-222° C.

reactant | 2-bromothioanisole | 0.025 mole, 4.15 g | BrC1=C(C=CC=C1)SC | C7H7BrS
reactant | 4-carboxybenzeneboronic acid | 0.0025 mole | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium carbonate | 0.075 mol, 10.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 40 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.00063 mol, 0.45 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2′-(Methylthio)-1,1′-biphenyl-4-carboxylic acid | CSC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2S
